US06090802
To a solution of 4-nitrobenzyl (1R,5R,6S)-2-(diphenylphosphoryloxy)-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate (478 mg) in anhydrous acetonitrile (5.5 ml), a solution of (2R,4S)-4-mercapto-1-(4-nitrobenzyloxycarbonyl)-2-[(3S)-3-(4-nitrobenzyloxycarbonylamino)pyrrolidin-1-ylcarbonylmethyl]pyrrolidine (450 mg) in anhydrous acetonitrile (5.5 ml) and diisopropylethylamine (0.140 ml) were added under ice cooling. The resulting mixture was allowed to stand for one day at the same temperature. The reaction mixture was concentrated by evaporation under reduced pressure. The residue was extracted with ethyl acetate. The extract was washed with water and saline, dried over anhydrous sodium sulfate. The solvent was distilled off and the residue was subjected to chromatography on a silica gel column. From the fraction eluted with ethyl acetate-methanol (20:1), 4-nitrobenzyl (1R,5R,6S)-2-[(2R,4S)-1-(4-nitrobenzyloxycarbonyl)-2-[(3S)-3-(4-nitrobenzyloxycarbonylamino)pyrrolidin-1-ylcarbonylmethyl]pyrrolidin-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate (675 mg) was obtained as a powder.

reactant | 4-nitrobenzyl (1R,5R,6S)-2-(diphenylphosphoryloxy)-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 478 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)OC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C | C29H27N2O8P
reactant | (2R,4S)-4-mercapto-1-(4-nitrobenzyloxycarbonyl)-2-[(3S)-3-(4-nitrobenzyloxycarbonylamino)pyrrolidin-1-ylcarbonylmethyl]pyrrolidine | 450 mg | S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CC(=O)N1C[C@H](CC1)NC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C26H29N5O9S
solvent | acetonitrile | 5.5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5.5 ml | C(C)#N | C2H3N
solvent | diisopropylethylamine | 0.140 ml | C(C)(C)N(CC)C(C)C | C8H19N
product | 4-nitrobenzyl (1R,5R,6S)-2-[(2R,4S)-1-(4-nitrobenzyloxycarbonyl)-2-[(3S)-3-(4-nitrobenzyloxycarbonylamino)pyrrolidin-1-ylcarbonylmethyl]pyrrolidin-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 675 mg | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC=2[C@@H]([C@@H]3N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]3[C@@H](C)O)=O)C)CC(=O)N3C[C@H](CC3)NC(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C=C1 | C43H45N7O15S
